US07157447B2
2-(Benzyloxy)-4-fluorobenzonitrile.
Benzyl alcohol (13 mL, 125 mmol) was slowly added to a stirred suspension of NaH (95%, 2.86 g, 113 mmol) in toluene (200 mL) at room temperature. After 30 min, 2,4-difluorobenzonitrile (15.3 g, 110 mmol; Aldrich) was added all at once and stirring continued overnight (18 h). After this, the reaction mixture was washed with water (2×25 mL) and brine (25 ml). The organic layer was dried (Na2SO4), filtered and concentrated to give a white slurry which was triturated with hexanes and filtered to afford the title compound as a white solid (20.34 g, 81% yield). 1H NMR (500 MHz, CDCl3): 7.59–7.55 (1H, m), 7.45–7.34 (5H, m), 6.75–6.71 (2H, m), 5.19 (2H, s); 13C NMR (125.76 MHz, DMSO-d6) δ ppm: 71.16, 98.75, 101.54, 101.75, 108.66, 108.84, 115.83, 127.16, 128.58, 128.94, 135.03, 135.44, 135.54, 162.22, 162.31, 165.26, 167.29. LCMS calcd for C14H11FNO: 228.2. found: 228.0.

reactant | Benzyl alcohol | 125 mmol, 13 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | NaH | 113 mmol, 2.86 g | [H-].[Na+]
reactant | 2,4-difluorobenzonitrile | 110 mmol, 15.3 g | FC1=C(C#N)C=CC(=C1)F | C7H3F2N
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(Benzyloxy)-4-fluorobenzonitrile | 20.34 g, 81% yield | C(C1=CC=CC=C1)OC1=C(C#N)C=CC(=C1)F | C14H10FNO
